US08227461B2
d) 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid morpholin-4-ylamide
To a stirred solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (215 mg, 0.69 mmol) in DMF (5 mL) at room temperature under argon was added N-aminomorpholine (78 mg, 0.76 mmol), 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (244 mg, 0.76 mmol) and N,N-diisopropylethylamine (446 mg, 3.4 mmol). After 15 h the reaction mixture was concentrated, diluted with water and extracted with ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated. Purification by chromatography (silica, dichloromethane:methanol 1:0 to 97.5:2.5) afforded the title compound (101 mg, 37%) as a white gum. MS: m/e=396.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.69 mmol, 215 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)C(=O)O | C16H13N3O4
reactant | N-aminomorpholine | 0.76 mmol, 78 mg | NN1CCOCC1 | C4H10N2O
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.76 mmol, 244 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 3.4 mmol, 446 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid morpholin-4-ylamide | 101 mg, 37% | N1(CCOCC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C20H21N5O4
